US08183260B2
1-amino-5-(1-methyl-2,6-dioxopiperidin-3-yl)-5H-thieno(3,4-c)pyrrole-4,6-dione
0.097 g of 1-nitro-5-(1-methyl-2,6-dioxopiperidin-3-yl)-5H-thieno(3,4-c)pyrrole-4,6-dione was dissolved in 10 mL of acetone; and a solution obtained by dissolving 0.239 g of Na2S2O4 in 10 mL of water was added. The reaction mixture was refluxed for 2 h, cooled, and 10 mL of water were added. The aqueous phase was extracted with ethyl acetate (3×30 mL), the organic phases were combined, washed with 40 mL of water and 40 mL of brine, dried over anhydrous MgSO4, filtered, and evaporated to dryness to remove the solvent. The remaining residue was purified on silica gel column chromatography to yield a solid (0.046 g). MS (m/z): 292 (M−1)+.

reactant | 1-nitro-5-(1-methyl-2,6-dioxopiperidin-3-yl)-5H-thieno(3,4-c)pyrrole-4,6-dione | 0.097 g | [N+](=O)([O-])C=1SC=C2C1C(N(C2=O)C2C(N(C(CC2)=O)C)=O)=O | C12H9N3O6S
reactant | Na2S2O4 | 0.239 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | water | 10 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 1-amino-5-(1-methyl-2,6-dioxopiperidin-3-yl)-5H-thieno(3,4-c)pyrrole-4,6-dione | 0.046 g | NC=1SC=C2C1C(N(C2=O)C2C(N(C(CC2)=O)C)=O)=O | C12H11N3O4S
